US06291507B1
1-(3,4-Dichlorobenzyl)cyclopenta[b]pyrrole-2,4-dicarboxylic Acid (Compound No. 5 in Table I)
Benzyl 4-carboxy-1-(3,4-dichlorobenzyl)cyclopenta[b]pyrrole-2-carboxylate (0.1 g) was dissolved in ethyl acetate (5 mL). Palladium on carbon (5% Pd, 10 mg) was added and the reaction was exposed to an hydrogen atmosphere (1.1 atm) for 4 hours until reaction was complete. The hydrogen was evacuated and the resulting solution was filtered through Celite to remove catalyst. The reaction was concentrated in vacuo to afford the crude product, which was dissolved in a minimum of 2M NaOH, diluted with water (1 mL), and then precipitated by addition of dilute aqueous HCl. The solid was collected and dried to yield the title product as a pale cream solid (32 mg, 41%), NMR d(DMSO) 2.40 (4H, m), 3.70 (1H, t), 5.40 (2H, AB d), 6.68 (1H, s), 6.95 (1H, dd), 7.15 (1H, s), 7.58 (1H, d); M/z (−) 355, 353 (MH+).

reactant | Benzyl 4-carboxy-1-(3,4-dichlorobenzyl)cyclopenta[b]pyrrole-2-carboxylate | 0.1 g | C(=O)(O)C1=CC=C2N(C(C=C21)C(=O)OCC2=CC=CC=C2)CC2=CC(=C(C=C2)Cl)Cl | C23H17Cl2NO4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 10 mg | [Pd] | Pd
solvent | NaOH | 2M | [OH-].[Na+]
solvent | water | 1 mL | O | H2O
product | 1-(3,4-Dichlorobenzyl)cyclopenta[b]pyrrole-2,4-dicarboxylic Acid | 32 mg, 41% | ClC=1C=C(CN2C=3C(=CC2C(=O)O)C(=CC3)C(=O)O)C=CC1Cl | C16H11Cl2NO4
